US07939528B2
Step 3: 2-Methyl-2,3-dihydro-1H-indene-2-carboxylic acid
To a tetrahydrofuran/H2O/methanol (4 mL/1 mL/1 mL) solution of the methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate (1.80 g, 9.46 mmol) was added lithium hydroxide monohydrate (1.19 g, 28.39 mmol). The reaction mixture stirred at ambient temperature for 4 hours and then the mixture was acidified to pH 3 using 1N HCl. The organics were extracted twice with 25 mL diethyl ether, the combined organics were washed with brine and then dried (Na2SO4), filtered and concentrated to as 2-Methyl-2,3-dihydro-1H-indene-2-carboxylic acid a white solid.

reactant | methyl 2-methyl-2,3-dihydro-1H-indene-2-carboxylate | 9.46 mmol, 1.80 g | CC1(CC2=CC=CC=C2C1)C(=O)OC | C12H14O2
reactant | lithium hydroxide monohydrate | 28.39 mmol, 1.19 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran H2O methanol | 4 mL | O1CCCC1.O.CO
product | 2-Methyl-2,3-dihydro-1H-indene-2-carboxylic acid | CC1(CC2=CC=CC=C2C1)C(=O)O | C11H12O2
